** ISIM circuit **
* 
* NI Multisim to SPICE Netlist Export
* Generated by: yosefmei
* Mon, Jan 30, 2023 10:43:45 
*

*## Multisim Component DAC1 ##*
vDAC1 VDAC1 0 dc {DAC1Param} ac 0 0

*## Multisim Component RB1k ##*
rRB1k BRes1k Base 1000

*## Multisim Component DigBVin1k ##*
vDigBVin1k BVin1k 0 dc {DigBVin1kParam} ac 0 0

*## Multisim Component U9 ##*
mU9 VDAC1 BVin1k BRes1k BRes1k TN2501__DEF__1

*## Multisim Component DigCVin10 ##*
vDigCVin10 CVin10 0 dc {DigCVin10Param} ac 0 0

*## Multisim Component DigCVin100 ##*
vDigCVin100 CVin100 0 dc {DigCVin100Param} ac 0 0

*## Multisim Component DigCVin1k ##*
vDigCVin1k CVin1k 0 dc {DigCVin1kParam} ac 0 0

*## Multisim Component DigBVin100 ##*
vDigBVin100 BVin100 0 dc {DigBVin100Param} ac 0 0

*## Multisim Component RB100 ##*
rRB100 BRes100 Base 100

*## Multisim Component Q9 ##*
xQ9 VDAC1 BVin100 BRes100 2N7000_2__MOS_ENH_N__1

*## Multisim Component V15 ##*
vV15 -1V 0 dc -1 ac 0 0

*## Multisim Component V14 ##*
vV14 12V 0 dc 12 ac 0 0

*## Multisim Component Q1 ##*
qQ1 Collector Base 0 2N3415__BJT_NPN__1

*## Multisim Component DAC0 ##*
vDAC0 VDAC0 0 dc {DAC0Param} ac 0 0

*## Multisim Component V5 ##*
vV5 4 0 dc 12 ac 0 0

*## Multisim Component RC5 ##*
rRC5 7 0 100000

*## Multisim Component RC4 ##*
rRC4 top 7 100000

*## Multisim Component U2 ##*
xU2 5 7 VDAC0 0 4 741__OPAMP__1

*## Multisim Component Q2 ##*
qQ2 4 5 top QBD135__BJT_NPN__1

*## Multisim Component RC10 ##*
rRC10 CRes10 Collector 10 

*## Multisim Component RC100 ##*
rRC100 CRes100 Collector 100

*## Multisim Component RC1k ##*
rRC1k CRes1k Collector 1000 


.MODEL TN2501__DEF__1 NMOS (LEVEL=3 RS=0.07 NSUB=1.0E15 KAPPA=0.20 TPG=1 CGDO=3.1716E-10 RD=1.2 VTO=0.700 VMAX=1.0E7 ETA=0.0223089 NFS=6.6E10 TOX=725E-10 LD=1.698E-9 UO=862.425 XJ=6.4666E-7 THETA=1.0E-5 CGSO=2.50E-9 L=2.0E-6 W=59E-3)

.SUBCKT 2N7000_2__MOS_ENH_N__1 1 2 3
Cgs  2 3 12.3E-12
Cgd1 2 4 27.4E-12
Cgd2 1 4 6E-12
M1 1 2 3 3 MOST1 W=9.7m L=2u
M2 4 2 1 3 MOST2 W=9.7m L=2u
D1 3 1 Dbody
.MODEL MOST1 NMOS(Level=3 Kp=20.78u W=9.7m L=2u Rs=20m Vto=2 Rd=1.186)
.MODEL MOST2 NMOS(VTO=-4.73 Kp=20.78u W=9.7m L=2u Rs=20m)
.MODEL Dbody D(Is=125f N=1.023 Rs=1.281 Ikf=18.01 Cjo=46.3p M=.3423
+            Vj=.4519 Bv=60 Ibv=10u Tt=161.6n)
.ENDS

.SUBCKT 741__OPAMP__1 1 2 3 4 5
* EWB Version 4 - 5 Terminal Opamp Model
* nodes: 3=+ 2=- 1=out 5=V+ 4=V-
* VCC= 15 VEE= -15 CC= 3e-011 A= 200000 RI= 2e+006
* RO= 75 VOS= 0.001 IOS= 2e-008 IBS= 8e-008
* VSW+= 14 VSW-= -14 CMMR= 90
* ISC= 0.025 SR= 0.5 Fu= 1e+006 Pm= 6.09112e-007
    VC 5 15 DC 1.68573V 
    VE 12 4 DC 1.68573V 
    IEE 10 4 DC 1.516e-005A
    R1  10  0 10Gohm 
    R6  11  0 100Kohm
    R7   5  4 1Kohm   
    Rc1  6  5 5305.16ohm  
    Rc2  5  7 5305.16ohm  
    Re1  9 10 1839.19ohm 
    Re2  8 10 1839.19ohm 
    Ro1  1 14 37.5ohm 
    Ro2 14  0 37.5ohm 
    Ree 10  0 1.31926e+007ohm 
    Rcc  0 13 2.20906e-005ohm 
    Cee  0 10 1e-012    
    Cc  14 11 3e-011    
    C1   6  7 1e-016    
    GA  11  0  6  7 0.000188496 
    GC   0 13  1  0 45268.1 
    GB  14  0 11  0 282.942 
    GCM  0 11 10  0 5.96075e-009 
    D1  14 13 Dopamp1 
    D2  13 14 Dopamp1 
    D3   1 15 Dopamp2 
    D4  12  1 Dopamp2 
    Qt1  6 2 9 Qopamp1 
    Qt2  7 3 8 Qopamp2 
.MODEL Dopamp1 D (Is=7.53769e-014A Rs=0 Cjo=0F Vj=750mV Tt=0s M=0)
.MODEL Dopamp2 D (Is=8e-016A Rs=0 Cjo=0F Vj=750mV Tt=0s M=0)
.MODEL Qopamp1 NPN (Is=8e-016A BF=83.3333 BR=960m
+       Rb=0ohm Re=0ohm Rc=0ohm Cjs=0F Cje=0F Cjc=0F
+       Vje=750m Vjc=750m Tf=0 Tr=0 mje=0 mjc=0 VA=50)
.MODEL Qopamp2 NPN (Is=8.30948e-016A BF=107.143 BR=960m
+       Rb=0ohm Re=0ohm Rc=0ohm Cjs=0F Cje=0F Cjc=0F
+       Vje=750m Vjc=750m Tf=0 Tr=0 mje=0 mjc=0 VA=50)
.ENDS

.MODEL 2N3415__BJT_NPN__1   NPN(Is=12.03f Xti=3 Eg=1.11 Vaf=37.37 Bf=377.5 Ne=1.971
+               Ise=3.346p Ikf=.1072 Xtb=1.5 Br=4.379 Nc=2 Isc=0 Ikr=0 Rc=1
+               Cjc=5.777p Mjc=.3199 Vjc=.75 Fc=.5 Cje=8.307p Mje=.384 Vje=.75
+               Tr=707.6p Tf=385.4p Itf=.17 Vtf=3 Xtf=8 Rb=10)

.MODEL QBD135__BJT_NPN__1 NPN(
+ IS = 4.815E-14
+ NF = 0.9897
+ ISE = 1.389E-14
+ NE = 1.6
+ BF = 124.2
+ IKF = 1.6
+ VAF = 222
+ NR = 0.9895
+ ISC = 1.295E-13
+ NC = 1.183
+ BR = 13.26
+ IKR = 0.29
+ VAR = 81.4
+ RB = 0.5
+ IRB = 1E-06
+ RBM = 0.5
+ RE = 0.165
+ RC = 0.096
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 1.243E-10
+ VJE = 0.7313
+ MJE = 0.3476
+ TF = 6.478E-10
+ XTF = 29
+ VTF = 2.648
+ ITF = 3.35
+ PTF = 0
+ CJC = 3.04E-11
+ VJC = 0.5642
+ MJC = 0.4371
+ TR = 1E-32
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.9359 )



** C_switch **

*## Multisim Component RC6 ##*
rRC6 top 24 100000 

*## Multisim Component Q8 ##*
xQ8 24 CVin10 0 ZVN0124__MOS_ENH_N__1

*## Multisim Component Q7 ##*
xQ7 CRes10 24 top NTA4151P/ON__MOS_ENH_P__1


.SUBCKT ZVN0124__MOS_ENH_N__1 3 4 5
*               D G S
M1 3 2 5 5 MN0124
RG 4 2 225
RL 3 5 2.4E7
D1 5 3 DN0124
.MODEL MN0124 NMOS VTO=1.5512 RS=1.436 RD=9.254 IS=1E-15 KP=1.077
+CGSO=60E-12 CGDO=2E-12 CBD=36E-12 PB=1 LAMBDA=0
.MODEL DN0124 D IS=3.071E-12 N=1.026 RS=0.511
.ENDS ZVN0124

.SUBCKT NTA4151P/ON__MOS_ENH_P__1  1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Oct  4, 10
* MODEL FORMAT: PSpice
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM PMOS LEVEL=1 IS=1e-32
+VTO=-0.868304 LAMBDA=0.0695331 KP=4.15322
+CGSO=1.37892e-06 CGDO=1.15666e-07
RS 8 3 0.165069
D1 1 3 MD
.MODEL MD D IS=9.46735e-09 RS=0.233288 N=1.5 BV=27.9
+IBV=0.00025 EG=1 XTI=1 TT=2.5e-09
+CJO=2.21746e-11 VJ=2.55501 M=0.749801 FC=0.5
RDS 3 1 1.33e+11
RD 9 1 0.0301336
RG 2 7 26.3891
D2 5 4 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=6.92221e-11 VJ=0.5 M=0.9 FC=1e-08
D3 5 0 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3.00001e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 3.02409e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 6 0 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS NTA4151P/ON



** C_switch **

*## Multisim Component RC7 ##*
rRC7 top 30 100000 

*## Multisim Component Q4 ##*
xQ4 30 CVin100 0 ZVN0124__MOS_ENH_N__1

*## Multisim Component Q3 ##*
xQ3 CRes100 30 top NTA4151P/ON__MOS_ENH_P__1



** C_switch **

*## Multisim Component RC8 ##*
rRC8 top 36 100000 

*## Multisim Component Q6 ##*
xQ6 36 CVin1k 0 ZVN0124__MOS_ENH_N__1

*## Multisim Component Q5 ##*
xQ5 CRes1k 36 top NTA4151P/ON__MOS_ENH_P__1



** V_div **

*## Multisim Component U1 ##*
xU1 CRes10 43 12V -1V 43 OPA234/TI__OPAMP__1

*## Multisim Component Rm8 ##*
rRm8 CRes10Div 0 10000 

*## Multisim Component Rm7 ##*
rRm7 CRes10Div 43 40000


* OPA234
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: OPA234
* Date: 01JUL2011
* Model Type: ALL IN ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: N/A 
* EVM Users Guide: N/A
* Datasheet: SBOS055B ï¿½ MAY 1996 ï¿½ REVISED APRIL 2008 
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
* This model is applicable to OPA234, OPA2234, OPA4234
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
*****************************************************************************
.SUBCKT OPA234/TI__OPAMP__1   1 2 3 4 5
*
C1   11 12 6.995E-12
C2    6  7 30E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 479.3E6 -480E6 480E6 480E6 -480E6
GA    6  0 11 12 65.97E-6
GCM   0  6 10 99 1.046E-9
IEE   3 10 DC 6.100E-6
HLIM 90  0 VLIM 1E3
Q1   11  2 13 QX
Q2   12  64 14 QX
R2    6  9 100.0E3
RC1   4 11 15.16E3
RC2   4 12 15.16E3
RE1  13 10 6.429E3
RE2  14 10 6.429E3
REE  10 99 50.00E6
RO1   8  5 10
RO2   7 99 10
VB    9  0 DC 0
VC    3 53 DC 1.3
VE   54  4 DC 0.65
VLIM  7  8 DC 0
VLP  91 0 DC 10
VLN   0 92 DC 10
* Output Supply Mirror
DQ1   20    21    DX
DQ2   22    20    DX
VQ1   21     0    0
VQ2   22     0    0
*adds quiescent plus positive output current
FQ1    3     0    POLY(1) VQ1   235E-6   1
*adds quiescent plus negative output current
FQ2    0     4    POLY(1) VQ2   235E-6  -1
*mirrors output current-used by FQ1 and FQ2
FQ3    0    20    POLY(1) VLIM 0   1
* delta Quiescent Current / delta Supplies
*determines change in IQ with change in power supply voltages
RQ     3     4    1E6
* Diff Input Capacitance
CDIF   1     2    5E-12
* Common Mode Input Capacitance
C1CM   1    99    6E-12
C2CM   2    99    6E-12
* Input Voltage Noise
VN1   61     0  0.6
VN2    0    62  0.6
DN1   61    63  DY
DN2   63    62  DY
*adds 1/f noise to model. Adjusted to agree w/actual en
EN    64     1  63   0    0.8
RN1    0    65  60.3865
RN2   65    66  60.3865
RN3   66     0  120.773
RN4    0    67  60.3865
RN5   67    68  60.3865
RN6   68     0  120.773
**************************
.MODEL DX D(IS=800.0E-18)
*adds voltage noise
.MODEL DY D(IS=1.9E-16 RS=2000 AF=1 KF=2.258E-17)
.MODEL QX PNP(IS=800.0E-18 BF=60)
.ENDS OPA234/TI
*



** V_div **

*## Multisim Component U6 ##*
xU6 CRes100 50 12V -1V 50 OPA234/TI__OPAMP__1

*## Multisim Component Rm4 ##*
rRm4 CRes100Div 0 10000 

*## Multisim Component Rm3 ##*
rRm3 CRes100Div 50 40000 



** V_div **

*## Multisim Component U7 ##*
xU7 CRes1k 57 12V -1V 57 OPA234/TI__OPAMP__1

*## Multisim Component Rm6 ##*
rRm6 CRes1kDiv 0 10000 

*## Multisim Component Rm5 ##*
rRm5 CRes1kDiv 57 40000 



** V_div **

*## Multisim Component U8 ##*
xU8 Collector 64 12V -1V 64 OPA234/TI__OPAMP__1

*## Multisim Component Rm2 ##*
rRm2 CollectorDiv 0 10000 

*## Multisim Component Rm1 ##*
rRm1 CollectorDiv 64 40000 



** Vb_div **

*## Multisim Component U3 ##*
xU3 BRes100 18 12V -1V 18 OPA234/TI__OPAMP__1

*## Multisim Component Rm10 ##*
rRm10 BRes100Div 0 10000 

*## Multisim Component Rm9 ##*
rRm9 BRes100Div 18 15000 



** Vb_div **

*## Multisim Component U4 ##*
xU4 BRes1k 17 12V -1V 17 OPA234/TI__OPAMP__1

*## Multisim Component Rm12 ##*
rRm12 BRes1kDiv 0 10000 

*## Multisim Component Rm11 ##*
rRm11 BRes1kDiv 17 15000 



** Vb_div **

*## Multisim Component U5 ##*
xU5 Base 16 12V -1V 16 OPA234/TI__OPAMP__1

*## Multisim Component Rm14 ##*
rRm14 BaseDiv 0 10000 

*## Multisim Component Rm13 ##*
rRm13 BaseDiv 16 15000 

.PARAM DAC0Param=0
.PARAM DAC1Param=5
.PARAM DigBVin1kParam=IF(BRes==0,5,0)
.PARAM DigBVin100Param=IF(BRes==1,5,0)
.PARAN DigCVin1kParam=IF(CRes==0,5,0)
.PARAM DigCVin100Param=IF(CRes==1,5,0)
.PARAM DigCVin10Param=IF(CRes==2,5,0)
.PARAM CRes=0
.PARAM BRes=0

.OP
.OPT noOpiter GminSteps=0
.SAVE V(vdac1) V(bvin1k) V(bvin100) V(bres1k) V(bres100) V(base) I(Rrb1k) I(Rrb100) Ic(Qdut) Ib(Qdut) Ie(Qdut) V(vdac0) Ie(Qq2) V(cvin1k) V(cvin100) V(cvin10) V(cres1k) V(cres100) V(cres10) V(collector) I(Rrc1k) I(Rrc100) I(Rrc10) V(bres1kdiv) V(bres100div) V(cres1kdiv) V(cres100div) V(cres10div) V(collectordiv) V(basediv)
.end